US05219874
2-Cyano-4-ethylphenol (1.47 g) was added portionwise to a stirred, ice-cooled suspension of sodium hydride (60% w/w dispersion in mineral oil, 420 mg) in DMPU (10 ml) under argon. Stirring was continued for 1 hour at ambient temperature, the mixture cooled to 4° C. and 2-bromo-2-methylpropanal (2.26 g) in DMPU (2 ml) added. Stirring was continued for 18 hours at ambient temperature. Water (50 ml) was added and the resulting mixture extracted with ether (3×50 ml). The combined extracts were washed with water (2×30 ml) and saturated brine (2×30 ml), then dried (MgSO4). Evaporation of the solvent and purification of the residual oil by flash chromatography, eluting with 20% v/v ethyl acetate in hexane, gave 2-(2-cyano-4-ethylphenoxy)-2-methylpropanal (2.04 g), as a colourless oil; NMR: 1.21 (3H, t, J=7 Hz), 1.51 (6H, s), 2.61 (2 H, q, J=7 Hz), 6.76(1H, d, J=7 Hz), 7.28 (1H, dd, J=7,2 Hz), 7.41 (1H, d, J=2 Hz), 9.85 (1H, s).

reactant | 2-Cyano-4-ethylphenol | 1.47 g | C(#N)C1=C(C=CC(=C1)CC)O | C9H9NO
reactant | sodium hydride | 420 mg | [H-].[Na+]
reactant | 2-bromo-2-methylpropanal | 2.26 g | BrC(C=O)(C)C | C4H7BrO
reactant | Water | 50 ml | O | H2O
solvent | DMPU | 10 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | DMPU | 2 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 2-(2-cyano-4-ethylphenoxy)-2-methylpropanal | 2.04 g | C(#N)C1=C(OC(C=O)(C)C)C=CC(=C1)CC | C13H15NO2
